US05344843
A stirred mixture of 4-hydroxy-alpha-oxobenzeneacetic acid methyl ester (1.267 g) in dimethylformamide (10 mL) under argon was treated with 55% sodium hydride (0.305 g), stirred for 15 minutes and treated with the mesylate prepared from 1.135 g of 2-(7quinolyloxy)ethanol. The mixture was heated under argon at 60° C. for 5 hours. The cooled mixture was treated with glacial acetic acid (2 drops) and the volatiles were removed under vacuum. The residue was mixed with dichloromethane and dilute cold sodium bicarbonate solution. The dichloromethane extracts were washed with water, dried (Na2SO4), filtered, and evaporated to give crude product. The material was purified by HPLC (ethyl acetate) and crystallized from dichloromethane-hexane to provide 0.93 g of alpha-oxo-4-[[2-(7-quinolyloxy)ethyl]oxy]benzeneacetic acid methyl ester as a colorless solid, mp 92°-94° C.

reactant | 4-hydroxy-alpha-oxobenzeneacetic acid methyl ester | 1.267 g | COC(C(C1=CC=C(C=C1)O)=O)=O | C9H8O4
reactant | sodium hydride | 0.305 g | [H-].[Na+]
reactant | mesylate | S(C)(=O)(=O)[O-]
reactant | 2-(7quinolyloxy)ethanol | 1.135 g | N1=CC=CC2=CC=C(C=C12)OCCO | C11H11NO2
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
catalyst | acetic acid | 2 drops | C(C)(=O)O | C2H4O2
product | alpha-oxo-4-[[2-(7-quinolyloxy)ethyl]oxy]benzeneacetic acid methyl ester | 0.93 g | COC(C(C1=CC=C(C=C1)OCCOC1=CC=C2C=CC=NC2=C1)=O)=O | C20H17NO5
